US08039450B2
6-(4-Bromo-3-formyl-phenoxy)-2-(2,2-difluoro-ethoxy)-nicotinonitrile (5)
A mixture of 6-chloro-2-(2,2-difluoro-ethoxy)-nicotinonitrile (5.01 g, 22.9 mmol), 2-bromo-5-hydroxy-benzaldehyde (3.84 g, 19.1 mmol) and K2CO3 (5.3 g, 38 mmol) in dimethylformamide (30 mL) was heated to 110° C. for 3 hours. The reaction mixture was cooled to room temperature, diluted with H2O (800 mL) and extracted with ethyl acetate (4×800 mL). The organic extracts were combined, dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash column chromatography (20% ethyl acetate/hexanes) to give the title compound as a white solid (6.62 g, 90%)

reactant | 6-chloro-2-(2,2-difluoro-ethoxy)-nicotinonitrile | 22.9 mmol, 5.01 g | ClC1=NC(=C(C#N)C=C1)OCC(F)F | C8H5ClF2N2O
reactant | 2-bromo-5-hydroxy-benzaldehyde | 19.1 mmol, 3.84 g | BrC1=C(C=O)C=C(C=C1)O | C7H5BrO2
reactant | K2CO3 | 38 mmol, 5.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | H2O | 800 mL | O | H2O
product | 6-(4-Bromo-3-formyl-phenoxy)-2-(2,2-difluoro-ethoxy)-nicotinonitrile | 6.62 g, 90% | BrC1=C(C=C(OC2=NC(=C(C#N)C=C2)OCC(F)F)C=C1)C=O | C15H9BrF2N2O3
